US07199239B2
Intermediate 21: N-[2-(Methylthio)ethyl]-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine
A solution of 2-(methylthio)-acetaldehyde diethyl acetal (0.465 g, 2.83 mmol) in 0.5 M HCl (5.66 mL, 2.83 mmol) was heated to 50° C. and stirred under nitrogen for 1 h. The reaction mixture was allowed to cool and extracted with CH2Cl2 (20 mL). The organic solution was dried (hydrophobic frit), and stood over molecular sieves for 2 h then decanted off into a clean flask. To this solution was added 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine (0.67 g, 2.83 mmol) followed by sodium triacetoxyborohydride (1.68 g, 7.93 mmol) and acetic acid (0.162 mL, 2.83 mmol). The resultant mixture was stirred at room temperature under nitrogen for 16 h. The reaction was quenched with sat. NaHCO3 aq. (30 mL) and extracted with CH2Cl2 (2×40 mL), the organic solution was passed through a hydrophobic frit and the solvent removed in vacuo. Purification by Biotage™ chromatography (90 g Silica column) eluted with 1:19 EtOAc:cyclohexane afforded the title compound as a pale yellow oil (397 mg).

reactant | 2-(methylthio)-acetaldehyde diethyl acetal | 2.83 mmol, 0.465 g | C(C)OC(CSC)OCC | C7H16O2S
reactant | HCl | 2.83 mmol, 0.5 M, 5.66 mL | Cl | ClH
reactant | 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine | 2.83 mmol, 0.67 g | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)N)(F)F | C13H10F3N
reactant | sodium triacetoxyborohydride | 7.93 mmol, 1.68 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 2.83 mmol, 0.162 mL | C(C)(=O)O | C2H4O2
product | N-[2-(Methylthio)ethyl]-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 397 mg | CSCCNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NS
